### PR TITLE
feat: `Ord`-related instances for various types

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides `Inhabited`, `Ord` (if missing), `TransOrd`, `LawfulEqOrd` and `LawfulBEqOrd` instances for various types, namely `Bool`, `String`, `Nat`, `Int`, `UIntX`, `Option`, `Prod` and date/time types. It also adds a few related theorems, especially about how the `Ord` instance for `Int` relates to `LE` and `LT`.

### CODE REVIEW

**Comment by Rob23oba** [comment]
Great! I also tried my hand on making some instances and I ended up with these helpers:
```
theorem transOrd_of_lt_trans_of_lt_iff {α : Type u} [LT α]
    [trans : @Trans α α α (· < ·) (· < ·) (· < ·)] [DecidableLT α] [DecidableEq α]
    (h : ∀ x y : α, x < y ↔ ¬y < x ∧ x ≠ y) :
    TransCmp (fun x y : α => compareOfLessAndEq x y) where
  eq_swap {x y} := by
    simp only [compare, compareOfLessAndEq]
    split
    · rename_i h'
      rw [h] at h'
      simp only [h'.1, h'.2.symm, reduceIte, Ordering.swap_gt]
    · split
      · rename_i h'
        have : ¬y < y := by
          rw [h]
          exact fun h => h.2 rfl
        simp only [h', this, reduceIte, Ordering.swap_eq]
      · rename_i h' h''
        replace h' := (h y x).mpr ⟨h', Ne.symm h''⟩
        simp only [h', Ne.symm h'', reduceIte, Ordering.swap_lt]
  isLE_trans {x y z} h₁ h₂ := by
    simp only [compare, compareOfLessAndEq, apply_ite Ordering.isLE,
      Ordering.isLE_lt, Ordering.isLE_eq, Ordering.isLE_gt] at h₁ h₂ ⊢
    simp only [Bool.if_true_left, Bool.or_false, Bool.or_eq_true, decide_eq_true_eq] at h₁ h₂ ⊢
    rcases h₁ with (h₁ | rfl)
    · rcases h₂ with (h₂ | rfl)
      · exact .inl (Trans.trans h₁ h₂)
      · exact .inl h₁
    · exact h₂

theorem transOrd_of_refl_of_antisymm_of_trans_of_total_of_not_le
    {α : Type u} [LT α] [LE α] [DecidableLT α] [DecidableLE α] [DecidableEq α]
    (refl : ∀ (x : α), x ≤ x) (antisymm : ∀ {x y : α}, x ≤ y → y ≤ x → x = y)
    (trans : ∀ {x y z : α}, x ≤ y → y ≤ z → x ≤ z) (total : ∀ (x y : α), x ≤ y ∨ y ≤ x)
    (not_le : ∀ {x y : α}, ¬x ≤ y ↔ y < x) :
    TransCmp (fun x y : α => compareOfLessAndEq x y) := by
  refine transOrd_of_lt_trans_of_lt_iff (trans := ⟨?_⟩) ?_
  · intro a b c
    simp only [← not_le]
    intro h₁ h₂ h₃
    replace h₁ := (total _ _).resolve_left h₁
    exact h₂ (trans h₃ h₁)
  · intro x y
    simp only [← not_le, Decidable.not_not]
    constructor
    · intro h
      exact ⟨(total _ _).resolve_left h, fun h' => (h' ▸ h) (refl _)⟩
    · intro ⟨h₁, h₂⟩ h₃
      exact h₂ (antisymm h₁ h₃)
```
That made for some simple instances:
```
instance : TransOrd Bool where
  eq_swap {x y} := by cases x <;> cases y <;> rfl
  isLE_trans {x y z} h₁ h₂ := by cases x <;> cases y <;> cases z <;> trivial

instance : TransOrd Nat :=
  transOrd_of_refl_of_antisymm_of_trans_of_total_of_not_le
    Nat.le_refl Nat.le_antisymm Nat.le_trans Nat.le_total Nat.not_le

instance : TransOrd Int :=
  transOrd_of_refl_of_antisymm_of_trans_of_total_of_not_le
    Int.le_refl Int.le_antisymm Int.le_trans Int.le_total Int.not_le

instance : TransOrd String :=
  transOrd_of_refl_of_antisymm_of_trans_of_total_of_not_le
    String.le_refl String.le_antisymm String.le_trans String.le_total String.not_le
-- ...
```

**Comment by datokrat** [comment]
> Great! I also tried my hand on making some instances and I ended up with these helpers:

Hey, thanks a lot @Rob23oba. These lemmas are really useful, especially because they work so well with the existing lemmas about `LE` and `LT`. They also work verbatim for the `UInt*` data types and will probably soon apply to the `Int*` data types.

**Comment by datokrat** [comment]
A few remarks:

* Rebased to `nightly`, I'll wait for a mathlib build before merging.
* We currently don't have `Ord` instances for `ByteArray`, `Array` and `List`. I can add them (including the C++ part for `ByteArray` in analogy to `String`) in another PR if we'd like to have them.

File: src/Init/Data/Int/Compare.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+-/
+namespace Int
+
+protected theorem lt_or_eq_of_le {n m : Int} (h : n ≤ m) : n < m ∨ n = m := by
+  omega
+
+protected theorem le_iff_lt_or_eq {n m : Int} : n ≤ m ↔ n < m ∨ n = m :=
+  ⟨Int.lt_or_eq_of_le, fun | .inl h => Int.le_of_lt h | .inr rfl => Int.le_refl _⟩
+
+theorem compare_def_lt (a b : Int) :
```
Comment (TwoFX) [inline src/Init/Data/Int/Compare.lean:24]: We're [trying to avoid the `def` name component](https://github.com/leanprover/lean4/blob/master/doc/std/naming.md#special-cases). How about `compare_eq_ite_lt`?

Edit: I see, the name is from `Nat`. I would be in favor of deprecating the name there.

File: src/Init/Data/Ord.lean [hunk 2]
```diff
@@ -304,6 +304,27 @@ theorem then_eq_eq {o₁ o₂ : Ordering} : o₁.then o₂ = eq ↔ o₁ = eq 
 theorem then_eq_gt {o₁ o₂ : Ordering} : o₁.then o₂ = gt ↔ o₁ = gt ∨ o₁ = eq ∧ o₂ = gt := by
   cases o₁ <;> cases o₂ <;> decide
 
+@[simp]
+theorem then_lt {o : Ordering} : lt.then o = lt := rfl
```
Comment (TwoFX) [inline src/Init/Data/Ord.lean:308]: I would argue that for the purposes of the naming scheme, `then` is an infix operator (similar to `Option.bind`, and names like `Std.TreeMap.minKey?_bind_getKey?`), so I would call this lemma `lt_then`.

File: src/Init/Data/Ord.lean [hunk 3]
```diff
@@ -345,6 +366,102 @@ To lexicographically combine two `Ordering`s, use `Ordering.then`.
...
+
+theorem compareOfLessAndEq_eq_swap
+    {α : Type u} [LT α] [LE α] [DecidableLT α] [DecidableEq α]
+    (antisymm : ∀ {x y : α}, x ≤ y → y ≤ x → x = y)
+    (total : ∀ (x y : α), x ≤ y ∨ y ≤ x) (not_le : ∀ {x y : α}, ¬ x ≤ y ↔ y < x) {x y : α} :
+    compareOfLessAndEq x y = (compareOfLessAndEq y x).swap := by
+  apply compareOfLessAndEq_eq_swap_of_lt_iff_not_gt_and_ne
+  exact lt_iff_not_gt_and_ne_of_antisymm_of_total_of_not_le antisymm total not_le
+
+theorem compareOfLessAndEq_eq_lt
```
Comment (TwoFX) [inline src/Init/Data/Ord.lean:412]: This sounds like a reasonable `simp` lemma to me.

File: src/Init/Data/Ord.lean [hunk 4]
```diff
@@ -345,6 +366,102 @@ To lexicographically combine two `Ordering`s, use `Ordering.then`.
...
+  simp only [reduceCtorEq, false_iff]
+  rintro rfl
+  rename_i hlt
+  simp [← not_le] at hlt
+  exact hlt (refl x)
+
+theorem compareOfLessAndEq_eq_gt_of_lt_iff_not_gt_and_ne
+    {α : Type u} [LT α] [LE α] [DecidableLT α] [DecidableEq α] {x y : α}
+    (h : ∀ x y : α, x < y ↔ ¬ y < x ∧ x ≠ y) :
+    compareOfLessAndEq x y = .gt ↔ x > y := by
```
Comment (TwoFX) [inline src/Init/Data/Ord.lean:433]: Hot take: this should be
```suggestion
    compareOfLessAndEq x y = .gt ↔ y < x := by
```

File: src/Std/Classes/Ord.lean [hunk 5]
```diff
@@ -216,6 +227,10 @@ theorem TransCmp.lt_of_lt_of_isLE [TransCmp cmp] {a b c : α} (hab : cmp a b = .
   · exact TransCmp.lt_trans hab hbc
   · exact TransCmp.lt_of_lt_of_eq hab hbc
 
+theorem TransCmp.lt_of_lt_of_lt [TransCmp cmp] {a b c : α} (hab : cmp a b = .lt)
```
Comment (TwoFX) [inline src/Std/Classes/Ord.lean:230]: This is just `TransCmp.lt_trans`, and so far neither we nor mathlib have been in the habit of introducing this alias (though I have considered it before).

File: src/Std/Classes/Ord.lean [hunk 6]
```diff
@@ -435,4 +457,248 @@ theorem lawfulBEq_of_lawfulEqOrd [Ord α] [LawfulEqOrd α] : LawfulBEq α where
 
 end Internal
 
+section Instances
+
+theorem TransOrd.of_lt_trans_of_lt_iff {α : Type u} [LT α] [DecidableLT α] [DecidableEq α]
```
Comment (TwoFX) [inline src/Std/Classes/Ord.lean:462]: The names seems to be quite off. More like `transCmp_compareOfLessAndEq_of_...` or `TransCmp.compareOfLessAndEq_...`?

File: src/Std/Time/Internal/Bounded.lean [hunk 7]
```diff
@@ -29,18 +30,32 @@ instance : LE (Bounded rel n m) where
 instance : LT (Bounded rel n m) where
   lt l r := l.val < r.val
 
+@[always_inline]
+instance : Ord (Bounded rel n m) where
+  compare l r := compare l.val r.val
```
Comment (TwoFX) [inline src/Std/Time/Internal/Bounded.lean:35]: I'm surprised you're not using `compareOn` here like elsewhere.

File: src/Std/Time/Internal/UnitVal.lean [hunk 8]
```diff
@@ -27,12 +28,33 @@ structure UnitVal (α : Rat) where
   Value inside the UnitVal Value.
   -/
   val : Int
-  deriving Inhabited, BEq
+deriving Inhabited, DecidableEq
+
+@[ext]
+theorem UnitVal.ext {x} {a b : UnitVal x} (h : a.val = b.val) : a = b := by
```
Comment (TwoFX) [inline src/Std/Time/Internal/UnitVal.lean:34]: Does marking `UnitVal` with `@[ext]` not produce this lemma?

File: src/Std/Time/Time/HourMarker.lean [hunk 9]
```diff
@@ -27,7 +27,23 @@ inductive HourMarker
   Post meridiem.
   -/
   | pm
-  deriving Repr, BEq
+  deriving Repr, DecidableEq
```
Comment (TwoFX) [inline src/Std/Time/Time/HourMarker.lean:30]:
```suggestion
deriving Repr, DecidableEq
```

File: src/Std/Time/Zoned/ZonedDateTime.lean [hunk 10]
```diff
@@ -14,7 +14,8 @@ namespace Time
 -- set_option linter.all true
 
 /--
-Represents a date and time with timezone information.
+Represents a date and time with timezone information. Boolean equality (`BEq`/`==`) of two instances
+means that the underlying time zone independent timestamps are equal.
```
Comment (TwoFX) [inline src/Std/Time/Zoned/ZonedDateTime.lean:18]: I don't think this is a good choice. It violates what a user may reasonably expect the equality to mean and it also differs from other programming languages. For example, Java compares like this: "The comparison is based first on the instant, then on the local date-time, then on the zone ID, then on the chronology."

I think this is a bit subtle, so I'd be happy to just not provide the instance in this PR and discuss this in more detail later.

File: src/Std/Time/Internal/UnitVal.lean (hunk 8 above)
Comment (datokrat) [reply src/Std/Time/Internal/UnitVal.lean]: I wasn't aware that we have this feature -- yep, this works! I removed my `ext` lemmas.

File: src/Init/Data/Int/Compare.lean [hunk 11]
```diff
@@ -0,0 +1,80 @@
...
+  simp only [compare, compareOfLessAndEq]
+  split
+  · rfl
+  · next h =>
+    match Int.lt_or_eq_of_le (Int.not_lt.1 h) with
+    | .inl h => simp [h, Int.ne_of_gt h]
+    | .inr rfl => simp
+
+@[deprecated compare_eq_ite_lt (since := "2025-03-28")]
+def compare_def_lt := compare_eq_ite_lt
```
Comment (TwoFX) [inline src/Init/Data/Int/Compare.lean:35]: No need to introduce a thing and immediately deprecate it.

**Review by TwoFX — APPROVED** [review]

**Comment by datokrat** [comment]
I rebased onto the new `nightly-with-mathlib` and will await the Mathlib build before merging. Thanks for reviewing!
